US09388161B2
Triethylamine (0.49 mL, 3.49 mmol) was added to a 0° C. solution of (rac)-tert-butyl (cis)-4-hydroxy-2-methylpiperidine-1-carboxylate (250 mg, 1.16 mmol) and methanesulfonyl chloride (0.14 mL, 1.74 mmol) in dichloromethane (4.5 mL). The resulting mixture was warmed to room temperature and stirred overnight. The reaction was quenched by the addition of saturated aqueous sodium bicarbonate (10 mL) and dichloromethane (10 mL) was added. The organic layer was separated and washed with 1M aqueous citric acid (10 mL) and brine (10 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via column chromatography on silica gel (Biotage 50 g column, gradient elution with 20-30% ethyl acetate in hexanes) to afford (rac)-tert-butyl (cis)-2-methyl-4-((methylsulfonyl)oxy)piperidine-1-carboxylate (315 mg, 92%) as a colorless oil that slowly solidified to a white solid upon standing. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.17 (d, J=7.04 Hz, 3H), 1.38 (s, 9H), 1.63-1.76 (m, 1H), 1.85-1.90 (m, 3H), 2.96-3.06 (m, 1H), 3.18 (s, 3H), 3.72-3.78 (m, 1H), 4.16-4.24 (m, 1H), 4.93-4.98 (m, 1H).

reactant | Triethylamine | 3.49 mmol, 0.49 mL | C(C)N(CC)CC | C6H15N
reactant | (rac)-tert-butyl (cis)-4-hydroxy-2-methylpiperidine-1-carboxylate | 1.16 mmol, 250 mg | O[C@@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C11H21NO3
reactant | methanesulfonyl chloride | 1.74 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 4.5 mL | ClCCl | CH2Cl2
product | (rac)-tert-butyl (cis)-2-methyl-4-((methylsulfonyl)oxy)piperidine-1-carboxylate | 315 mg, 92% | C[C@@H]1N(CC[C@@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C | C12H23NO5S
